US08247576B2
82C. 2,2-Bis-(4-chlorophenyl)-propionic acid
A solution of 2,2-bis-(4-chloro-phenyl)-propionic acid methyl ester (210 mg, 0.67 mmol) in THF/water/methanol (1:1:1, 18 mL) was stirred at room temperature for 5 days then concentrated in vacuo. The residue was partitioned between ethyl acetate and 2N hydrochloric acid, then the organic phase was washed with brine, dried (MgSO4), filtered and concentrated to give the title compound (186 mg, 93%) as a yellow solid which was used without further purification. LCMS (PS-B3) Rt 2.40 min [M-CO2H]− 249.

reactant | 2,2-bis-(4-chloro-phenyl)-propionic acid methyl ester | 0.67 mmol, 210 mg | COC(C(C)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C16H14Cl2O2
solvent | THF water methanol | 18 mL | C1CCOC1.O.CO
product | 2,2-Bis-(4-chlorophenyl)-propionic acid | 186 mg, 93% | ClC1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)Cl | C15H12Cl2O2
